US06753322B2
6-[(2,2-Diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-N-{2-[({[2-(4-isopropyl-1-piperidinyl)ethyl]amino}carbonyl)amino]ethyl}-9H-purine-2-carboxamide
Prepared from N-(2-aminoethyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide (Preparation 10) and N-[2-4-isopropyl-1-piperidinyl)ethyl]-1H-imidazole-1-carboxamide (Preparation 22) by a similar method to Example 1.

reactant | N-(2-aminoethyl)-6-[(2,2-diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-9H-purine-2-carboxamide | NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N8O5
reactant | 1H-imidazole-1-carboxamide | N1(C=NC=C1)C(=O)N | C4H5N3O
product | 6-[(2,2-Diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-N-{2-[({[2-(4-isopropyl-1-piperidinyl)ethyl]amino}carbonyl)amino]ethyl}-9H-purine-2-carboxamide | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NCCNC(=O)NCCN1CCC(CC1)C(C)C)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)C1=CC=CC=C1 | C40H54N10O6
